US07915288B2
Allyl chloroformate (2.7 ml, 25 mmol) is added dropwise at 0° C. to a cooled mixture of isoquinoline (2.9 g, 23 mmol) and 2,6-dimethyl-3-methoxyphenylmagnesium bromide (prepared from 7.3 g of 2,6-dimethyl-3-methoxyphenyl bromide and 2.8 g of magnesium turnings) in THF (30 ml). After stirring for 2 h at room temperature, the reaction mixture is quenched with saturated NH4Cl and extracted with Et2O. The combined extracts are washed with saturated brine, dried over Na2SO4, and concentrated to give 6.9 g of 1-(3-methoxy-2,6-dimethyl-phenyl)-1H-isoquinoline-2-carboxylic acid allyl ester.

reactant | Allyl chloroformate | 25 mmol, 2.7 ml | ClC(=O)OCC=C | C4H5ClO2
reactant | isoquinoline | 23 mmol, 2.9 g | C1=NC=CC2=CC=CC=C12 | C9H7N
reactant | 2,6-dimethyl-3-methoxyphenylmagnesium bromide | 7.3 g | CC1=C(C(=CC=C1OC)C)[Mg]Br
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-(3-methoxy-2,6-dimethyl-phenyl)-1H-isoquinoline-2-carboxylic acid allyl ester | 6.9 g | C(C=C)OC(=O)N1C(C2=CC=CC=C2C=C1)C1=C(C(=CC=C1C)OC)C | C22H23NO3
